US09126931B2
2-(6-Methoxy-pyridin-2-yl)-2-methyl-propionic acid ethyl ester
2-Bromo-6-methoxypyridine (7.0 g), ethyl isobutyrate (4.75 g), tri t-butylphosphine (300 mg) and Pd2(dba)3 (680 mg) were dissolved in toluene (200 ml) under nitrogen atmosphere, added with THF solution of LiHMDS (1.6 M, 24 ml), and the mixture was stirred at 100° C. for 6 hrs. The reaction mixture was diluted with ethyl acetate (300 ml), and washed three times with 15% brine (200 ml). The organic layer was concentrated under reduced pressure and the resulting residues were purified by silica gel column (n-hexane/ethyl acetate=4/1) to obtain the title compound (5.353 g, yield 60%).

reactant | 2-Bromo-6-methoxypyridine | 7.0 g | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | ethyl isobutyrate | 4.75 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | THF | C1CCOC1 | C4H8O
reactant | LiHMDS | 1.6 M, 24 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 680 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri t-butylphosphine | 300 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 2-(6-Methoxy-pyridin-2-yl)-2-methyl-propionic acid ethyl ester | 5.353 g, yield 60% | C(C)OC(C(C)(C)C1=NC(=CC=C1)OC)=O | C12H17NO3
